US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (64.5 mg, 0.03 eq.), 2-iodobenzotrifluoride (321 μL, 1.1 eq.), triethylamine (869 μL, 3.0 eq.), and copper (I) iodide (23.7 mg, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinoline (489 mg, 2.08 mmol, 1.0 eq.) in DMF (10.6 mL). The reaction mixture was stirred at ambient temperature for 18 hours and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 3/97 methanol/chloroform) to provide 0.13 g of 2-ethyl-1-[3-(2-trifluoromethylphenyl)-2-propynyl]-1H-imidazo[4,5-c]quinoline as a light yellow solid.

reactant | 2-iodobenzotrifluoride | 321 μL, 1.1 eq. | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
reactant | triethylamine | 869 μL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinoline | 2.08 mmol, 489 mg, 1.0 eq. | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC#C | C15H13N3
solvent | DMF | 10.6 mL | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 64.5 mg, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 23.7 mg, 0.06 eq. | [Cu]I
product | 2-ethyl-1-[3-(2-trifluoromethylphenyl)-2-propynyl]-1H-imidazo[4,5-c]quinoline | 0.13 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC#CC1=C(C=CC=C1)C(F)(F)F | C22H16F3N3
